US06951868B2
A solution of 2-ethyl-7-iodo-2,3-dihydro-1,4-benzodioxine (486 mg, 1.68 mmol) in DMF (3 mL) is degassed by repeatedly evacuating the flask and filling with N2. Zn(CN)2 (117 mg, 1.0 mmol), and Pd(PPh3)4 (97 mg, 0.084 mmol) are added, and the resulting solution is degassed, and is then heated to 80° C. for 1.5 h. The reaction is allowed to cool, poured into water and extracted two times with ether. The combined organic extracts are dried (Na2SO4), filtered and concentrated in vacuo. The resulting material is purified by column chromatography (step gradient, 25-50% CH2Cl2 in hexanes) to give 3-ethyl-2,3-dihydro-1,4-benzodioxine-6-carbonitrile as a clear oil (296 mg, 92%). 1H NMR (400 MHz, CDCl3) δ 7.16, 7.13, 6.91, 4.31, 4.05, 3.93, 1.7, 1.6, 1.08.

reactant | 2-ethyl-7-iodo-2,3-dihydro-1,4-benzodioxine | 1.68 mmol, 486 mg | C(C)C1COC2=C(O1)C=C(C=C2)I | C10H11IO2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 1.0 mmol, 117 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.084 mmol, 97 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-ethyl-2,3-dihydro-1,4-benzodioxine-6-carbonitrile | 296 mg, 92% | C(C)C1OC2=C(OC1)C=CC(=C2)C#N | C11H11NO2
